US06180629B2
4-Fluorobenzyl magnesium chloride (4.6 g, 25 mmol) in ether is added to phthalic acid (7.4 g, 50 mmol) in ether. The reaction mixture is stirred under reflux for 2 hours, is cooled with ice and is hydrolysed with HCl to yield 2-(4-fluorobenzylcarbonyl)benzoic acid.

reactant | 4-Fluorobenzyl magnesium chloride | 25 mmol, 4.6 g | FC1=CC=C(C[Mg]Cl)C=C1
reactant | phthalic acid | 50 mmol, 7.4 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-(4-fluorobenzylcarbonyl)benzoic acid | FC1=CC=C(CC(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C15H11FO3
